US06355642B1
4-(2-Methoxyphenyl)piperidine
1-t-Butoxycarbonyl-4-(2-methoxyphenyl)piperidine (120 mg, 0.41 mmol) was dissolved in methylene chloride (2 ml). Thereto was added trifluoroacetic acid (2 ml) and the resulting solution was stirred at a room temperature for 1 hour. The solvent was evaporated under a reduced pressure, and the thus obtained residue was mixed with ethyl acetate. This was washed with 1 N sodium hydroxide aqueous solution and saturated brine in that order, and then the solvent was evaporated under a reduced pressure to obtain 82 mg of the aforementioned compound of interest (0.43 mmol, 104% in yield).

reactant | 1-t-Butoxycarbonyl-4-(2-methoxyphenyl)piperidine | 0.41 mmol, 120 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)OC | C17H25NO3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Methoxyphenyl)piperidine | 82 mg | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
